US04200748
2,3,3a,4-Tetrahydro-8-nitro-1H-pyrrolo[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline
A 24.4 g. portion of 6-nitro-2,3-dichloroquinoxaline is added in one portion to a mixture of 10.2 g. of L-2-pyrrolidinomethanol, 40 ml. of triethylamine and 400 ml. of dimethylformamide which has been cooled to -5° C. in an ice bath. The mixture is stirred in the ice bath for 5 minutes, then at room temperature for 2 hours, finally on a steam bath overnight. A 500 ml. portion of water is added in increments. The mixture is cooled to room temperature and the solid is collected by filtration, washed with water, then hexane and dried. This solid is boiled in 300 ml. of dichloromethane and then filtered. The filtrate is passed through Magnesol® and hexane is added giving a solid. The solid is recrystallized from ethyl acetate giving the desired product, m.p. 234°-237° C.

reactant | 6-nitro-2,3-dichloroquinoxaline | [N+](=O)([O-])C=1C=C2N=C(C(=NC2=CC1)Cl)Cl | C8H3Cl2N3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3,3a,4-Tetrahydro-8-nitro-1H-pyrrolo[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline | [N+](=O)([O-])C=1C=CC=2N=C3C(=NC2C1)OCC1N3CCC1 | C13H12N4O3
